US05739333
To a solution of thiourea (13.69 g) in methanol (150 ml) is added a 28% solution of sodium methoxide in methanol (34.70 g) at 60° C., and thereto is further added (4-methylphenyl)malonic acid diethyl ester (32.62 g) at the same temperature. The reaction solution is refluxed for 8 hours. After cooling, water is added to the reaction solution, and the pH value of the solution is adjusted to pH 1 with hydrochloric acid under ice-cooing. The precipitated crystals are collected by filtration, and the residue is washed and dried to give 4,6-dihydroxy-2-mercapto-5-(4-methylphenyl)pyrimidine (12.53 g) as a crystal.

reactant | thiourea | 13.69 g | NC(=S)N | CH4N2S
reactant | sodium methoxide | C[O-].[Na+]
reactant | (4-methylphenyl)malonic acid diethyl ester | 32.62 g | C(C)OC(C(C(=O)OCC)C1=CC=C(C=C1)C)=O | C14H18O4
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 150 ml | CO | CH4O
solvent | methanol | 34.70 g | CO | CH4O
solvent | water | O | H2O
product | 4,6-dihydroxy-2-mercapto-5-(4-methylphenyl)pyrimidine | 12.53 g | OC1=NC(=NC(=C1C1=CC=C(C=C1)C)O)S | C11H10N2O2S
